US07795236B2
3-Methyl-4-phenylbenzonitrile
The title compound was prepared in a similar manner to that described in Reference Example 2 using 4-bromo-3-methylbenzonitrile instead of tert-butyl N-(4-bromobenzyl)carbamate and phenylboronic acid instead of 3-benzyloxyphenylboronic acid.

reactant | 4-bromo-3-methylbenzonitrile | BrC1=C(C=C(C#N)C=C1)C | C8H6BrN
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 3-Methyl-4-phenylbenzonitrile | CC=1C=C(C#N)C=CC1C1=CC=CC=C1 | C14H11N
